US07423030B2
46.5. 1-Chloro-7-methoxy-5-phenylphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-methoxy-5-phenyl-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-methoxy-5-phenyl-2H-phthalazin-1-one | COC1=CC(=C2C=NNC(C2=C1)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-5-phenylphthalazine | ClC1=NN=CC2=C(C=C(C=C12)OC)C1=CC=CC=C1 | C15H11ClN2O
